US06734191B2
Preparation of 4-(benzothiazol-2-yl)-benzyl alcohol
To a 0° C. solution of methyl-4-(benzothiazol-2-yl)-benzoate (prepared as described by A. Brembilla, D. Roizard and P. Lochon Synth. Commun. 1990, 20, 3379) (1.08 g, 4 mmol) in THF (20 mL) was added DIBAL-H (20 mL of a 1.0 M solution in THF, 20 mmol) over 10 minutes. The resulting solution was stirred at 0° C. for 2 hours, then an aqueous saturated solution of sodium potassium tartrate was added and the biphasic mixture stirred rapidly for 60 min. The phases were separated and the aqueous layer extracted with ether (3×20 mL). The combined organic fractions were dried (Na2SO4), concentrated and purified by column chromatography on silica gel (10:1 CH2Cl2/MeOH) to afford the title compound (0.69 g, 75%). 1H NMR (CD3OD) δ4.69 (s, 2H), 7.43 (t, 1H, J=7.8 Hz), 7.53 (m, 3H), 7.99 (m, 1H), 8.06 (m, 3H).

reactant | methyl-4-(benzothiazol-2-yl)-benzoate | COC(C1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2)=O | C15H11NO2S
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(benzothiazol-2-yl)-benzyl alcohol | 0.69 g, 75% | S1C(=NC2=C1C=CC=C2)C2=CC=C(CO)C=C2 | C14H11NOS
